US05034394
(±)-cis-4-[(2,5-Diamino-4-chloro-6-pyrimidinyl)amino]-2-cyclopentene-1-methanol prepared as in Example 3 (1.12 g, 4.38 mmol) was stirred in N,N-dimethylformamide (5 mL) with trimethylorthoacetate (30 mL) and ethane sulfonic acid (0.66 g, 5.7 mmol) at 70° C. for 3 days. The resulting solution was evaporated to a yellow syrup. Acetic anhydride (20 mL) was added and this solution was refluxed for 2.5 hours. The resulting dark solution was evaporated to a syrup, which was dissolved in 1N hydrochloric acid (50 mL). After 24 hours, the pH was adjusted to 6 with sodium hydroxide and most of the water evaporated. Crude product was extracted into 20% isopropyl alcohol-chloroform. This solution was dried (MgSO4) and solvent evaporated to leave (±)-cis-4-(2-amino-6-chloro-8-methyl-9H-purin-9-yl)-2-cyclopentene-1-methanol as a pale yellow glass (0.30 g); structure confirmed by 1H-NMR. This sample was dissolved in methanol (10 mL) and stirred in a Parr bomb with cyclopropylamine (1 mL) at 70° C. for 12 hours. Evaporation and chromatography on silica gel gave title compound, eluted as a cream-colored solid foam (136 mg) with 5% methanol-chloroform.

reactant | (±)-cis-4-[(2,5-Diamino-4-chloro-6-pyrimidinyl)amino]-2-cyclopentene-1-methanol | NC1=NC(=C(C(=N1)Cl)N)N[C@H]1C=C[C@H](C1)CO | C10H14ClN5O
reactant | trimethylorthoacetate | 30 mL | CC(C([O-])([O-])[O-])(C)C
reactant | ethane sulfonic acid | 5.7 mmol, 0.66 g | C(C)S(=O)(=O)O | C2H6O3S
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (±)-cis-4-(2-amino-6-chloro-8-methyl-9H-purin-9-yl)-2-cyclopentene-1-methanol | 0.30 g | NC1=NC(=C2N=C(N(C2=N1)[C@H]1C=C[C@H](C1)CO)C)Cl | C12H14ClN5O
